US04453005
Biphenyl acetylene 5.6 g was dissolved in THF (150 mL) at -78° C. One equivalent n-BuLi was added over one hour. The reaction was allowed to reach room temperature for one hour. 1-Iodo-3-0-tetrahydropyranylpropan-3-ol was added, (one equivalent). The reaction was refluxed for 24 hours. The product 1-0-tetrahydropyranyl-5-(4'-biphenylyl)-pent-4-yn-1-ol, (oil C: 82.47, H: 7.55) was isolated by addition of water and extraction with ethyl acetate. The product (1 g) was dried (60° 10-3 mmHg), dissolved in CH2Cl2 (50 mL) and Ph3P.Br2 (1.95 g) was added, after stirring for 15 minutes at room temperature NaCN (0.54 g) in 20 mL DMSO was added. The mixture was heated at 45° for 16 hours. The intermediate 1-cyano-6-(4'-biphenylyl)pent-5-yne m.p. 60°-61° C.: 88.13, H: 6.16, N: 5.71 was isolated by addition of water and extraction with EtOAc-hydrolysis to the title acid 10 was achieved by refluxing the nitrile in 10 mL (2N NaOH in 50 mL ethanol) followed by acidification with 6N HCl. The product 10 was filtered off and dried, 70% yield. m.p. 95°-96°.

reactant | Biphenyl acetylene | 5.6 g | C1=CC=C(C=C1)C#CC2=CC=CC=C2 | C14H10
reactant | n-BuLi | One equivalent | [Li]CCCC
reactant | 1-Iodo-3-0-tetrahydropyranylpropan-3-ol | ICCC(O)C1OCCCC1 | C8H15IO2
reactant | water | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-0-tetrahydropyranyl-5-(4'-biphenylyl)-pent-4-yn-1-ol | O1C(CCCC1)C(CCC#CC1=CC=C(C=C1)C1=CC=CC=C1)O | C22H24O2
